US05710198
A mixture of 21.4 g (0.12 mol) of sodium 2-chlorobenzoate, 26.1 g (0.132 mol) of sodium 2-cyclohexylphenolate, 4.95 g (0.05 mol) of copper(I) chloride and 16.17 g (0.05 mol) of tris[2-(2-methoxyethoxy)-ethyl]amine (TDA) in 1.5 1 of diethylene glycol dimethyl ether ("diglyme") is kept at 140° C. for 8 hours. The solvent is then concentrated on a vacuum rotary evaporator and the residue is diluted with water and acidified with concentrated hydrochloric acid. The product is extracted with ethyl acetate. The organic phases are washed with water, combined, dried over sodium sulfate and concentrated on a vacuum rotary evaporator. 22.2 g (68%) of 2-(2-cyclohexylphenoxy)benzoic acid, melting point 109°-123° C., result as a beige powder.

reactant | sodium 2-chlorobenzoate | 0.12 mol, 21.4 g | ClC1=C(C(=O)[O-])C=CC=C1.[Na+]
reactant | sodium 2-cyclohexylphenolate | 0.132 mol, 26.1 g | C1(CCCCC1)C1=C(C=CC=C1)[O-].[Na+]
reactant | tris[2-(2-methoxyethoxy)-ethyl]amine | 0.05 mol, 16.17 g | COCCOCCN(CCOCCOC)CCOCCOC | C15H33NO6
catalyst | copper(I) chloride | 0.05 mol, 4.95 g | [Cu]Cl
solvent | diethylene glycol dimethyl ether | COCCOCCOC | C6H14O3
product | 2-(2-cyclohexylphenoxy)benzoic acid | 22.2 g, 68% | C1(CCCCC1)C1=C(OC2=C(C(=O)O)C=CC=C2)C=CC=C1 | C19H20O3
